US06541501B2
Toluene-4-sulfonic acid 2-trifluoromethyl-3,6,7,8-tetrahydro-9-oxa-1,3-diaza-cyclopenta[a]naphthalen-8-ylmethyl ester
A solution of (2-trifluoromethyl-3,6,7,8-tetrahydro-9-oxa-1,3-diaza-cyclo-penta[a]naphthalen-8-yl)-methanol (400 mg, 1.47 mmol) and p-toluenesulfonyl chloride (344 mg, 1.76 mmol) in anhydrous pyridine (50 mL) was stirred for 12 hours and then the solvent was removed in vacuo to give a residue. The residue was dissolved in ethyl acetate (100 mL) and washed with water (3×30 mL). The organic layer was dried over anhydrous Na2SO4, filtered, and the solvent removed in vacuo to a residue. The residue was purified by chromatography (20% CH2Cl2-hexanes) to give 545 mg (87%) of the title compound as a solid: mp 160° C.; 1H NMR (400 MHz, CDCl3): [tautamer a]:δ1.95 (m, 1H), 2.05 (m, 1H), 2.44 (s, 3H), 2.90 (m, 2H), 4.30 (m, 2H), 4.40 (m, 1H), 7.02 (d, J=8.1 Hz, 1H), 7.32 (d, J=8.1 Hz, 1H), 7.35 (d, J=8.3 Hz, 2H), 7.83 (d, J=8.3 Hz, 2H), 10.35 (bs, 1H). [tautamer b]: δ1.95 (m, 1H), 2.05 (m, 1H), 2.44 (s, 3H), 2.90 (m, 2H), 4.25 (m, 2H), 4.40 (m, 1H), 7.02 (d, J=8.1 Hz, 1H), 7.08 (d, J=8.1 Hz, 1H), 7.34 (d, J=8.3 Hz, 2H), 7.84 (d, J=8.3 Hz, 2H), 9.95 (bs, 1H); IR: 3400, 3080, 2970, 1600, 1550, 1500, 1080 cm−1; MS 427 [M+H]+.

reactant | (2-trifluoromethyl-3,6,7,8-tetrahydro-9-oxa-1,3-diaza-cyclo-penta[a]naphthalen-8-yl)-methanol | 1.47 mmol, 400 mg | FC(C=1NC=2C(=C3OC(CCC3=CC2)CO)N1)(F)F | C12H11F3N2O2
reactant | p-toluenesulfonyl chloride | 1.76 mmol, 344 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Toluene-4-sulfonic acid 2-trifluoromethyl-3,6,7,8-tetrahydro-9-oxa-1,3-diaza-cyclopenta[a]naphthalen-8-ylmethyl ester | 545 mg, 87% | FC(C=1NC=2C(=C3OC(CCC3=CC2)COS(=O)(=O)C2=CC=C(C=C2)C)N1)(F)F | C19H17F3N2O4S
